US06333324B1
To a mixture of acetic hydrazide (2.63 g) and NaHCO3 (3.44 g) in a solution of dioxane (40 ml) and H2O (4 ml) was added dropwise 2-thiophenecarbonyl chloride (4.00 g) with ice-cooling. After stirring for 2 hours at ambient temperature, the mixture was diluted with AcOEt and filtered. After concentration of the filtrate, the obtained residue was crystallized from a mixture of AcOEt and hexane to give 5.38 g of N-(2-thienylcarbonylamino)ethanamide.

reactant | acetic hydrazide | 2.63 g | C(C)(=O)NN | C2H6N2O
reactant | NaHCO3 | 3.44 g | C(=O)(O)[O-].[Na+]
reactant | dioxane | 40 ml | O1CCOCC1 | C4H8O2
reactant | 2-thiophenecarbonyl chloride | 4.00 g | S1C(=CC=C1)C(=O)Cl | C5H3ClOS
solvent | AcOEt | CCOC(=O)C | C4H8O2
solvent | H2O | 4 ml | O | H2O
product | N-(2-thienylcarbonylamino)ethanamide | 5.38 g | S1C(=CC=C1)C(=O)NNC(C)=O | C7H8N2O2S
